US08623896B2
To a solution of 4-hydroxymethyl-2-trifluoromethyl-benzoic acid methyl ester (Example I9) (7.15 g) in dichloromethane (150 ml) was added manganese dioxide (25.1 g). The reaction mixture stirred at ambient temperature for 2.5 hours. The reaction mixture was filtered over a plug of silica gel and the filtrate concentrated to give 4-formyl-2-trifluoromethyl-benzoic acid methyl ester (5.98 g), which was used without further purification. 1H-NMR (CDCl3, 400 MHz): 10.11 (s, 1H), 8.25-7.59 (m, 3H), 3.98 (s, 3H).

reactant | 4-hydroxymethyl-2-trifluoromethyl-benzoic acid methyl ester | 7.15 g | COC(C1=C(C=C(C=C1)CO)C(F)(F)F)=O | C10H9F3O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 25.1 g | [O-2].[O-2].[Mn+4]
product | 4-formyl-2-trifluoromethyl-benzoic acid methyl ester | 5.98 g | COC(C1=C(C=C(C=C1)C=O)C(F)(F)F)=O | C10H7F3O3
